US04038065
b. 1-(2-ethylhexyl)-3-cyano-4,6-dimethylpyrid-2-one
A mixture of N-(2-ethylhexyl)cyanoacetamide (201.5 g., 1.0 mole), 2,4-pentanedione (100 g., 1.0 mole), piperidine (10 g.) and 2-B-ethanol 300 ml. is refluxed for 24 hours, cooled to room temperature and the solid precipitate is collected by filtration to give 155 g. (60% yield), mp. 84°-89° C. The solid when recrystallized from petroleum ether/benzene has a mp. 89°-90° C.

reactant | N-(2-ethylhexyl)cyanoacetamide | 1.0 mole, 201.5 g | C(C)C(CNC(CC#N)=O)CCCC | C11H20N2O
reactant | 2,4-pentanedione | 1.0 mole, 100 g | CC(CC(C)=O)=O | C5H8O2
reactant | piperidine | 10 g | N1CCCCC1 | C5H11N
product | 1-(2-ethylhexyl)-3-cyano-4,6-dimethylpyrid-2-one | 60% yield | C(C)C(CN1C(C(=C(C=C1C)C)C#N)=O)CCCC | C16H24N2O
